US05474995
Step 4: 5-(4-Fluorophenyl)-4-(4-(methylsulfinyl)phenyl)thiophene-2-carboxylic acid methyl ester
To a solution of 5-(4-fluorophenyl)-4-(4-(methylthio)phenyl)-thiophene-2-carboxylic acid methyl ester (5.60 g) in CH2Cl2 (84.0 mL) at 0° C. was added portionwise m-CPBA 50 to 60% (5.39 g). After TLC showed completion (50% EtOAc in hexane), the reaction mixture was extracted with saturated NaHCO3, dried over Na2SO4, filtered and evaporated to dryness to provide the title compound as a white foam (5.00 g).

reactant | 5-(4-fluorophenyl)-4-(4-(methylthio)phenyl)-thiophene-2-carboxylic acid methyl ester | 5.60 g | COC(=O)C=1SC(=C(C1)C1=CC=C(C=C1)SC)C1=CC=C(C=C1)F | C19H15FO2S2
reactant | m-CPBA | 5.39 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 84.0 mL | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | 5-(4-Fluorophenyl)-4-(4-(methylsulfinyl)phenyl)thiophene-2-carboxylic acid methyl ester | 5.00 g | COC(=O)C=1SC(=C(C1)C1=CC=C(C=C1)S(=O)C)C1=CC=C(C=C1)F | C19H15FO3S2
